US08357679B2
B: 1-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(pyrimidin-4-yl)urea
1-(4-(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)-piperazine-1-carbonyl)-2-fluorophenyl)-3-(pyrimidin-4-yl)urea (0.088 mmol, 0.0627 g) and potassium fluoride (50% on celite) (0.877 mmol, 0.102 g) were combined and heated to reflux in tetrahydrofuran (5 mL) overnight. The reaction mixture was filtered and the filtrate concentrated under reduced pressure. The resulting residue was purified by silica column chromatography (eluant dichloromethane/methanol 0% to 5%) to afford the title compound (8 mg). MS (ESI) m/z 601.3 [M+H]+

reactant | 1-(4-(4-(4-(2-(tert-butyldimethylsilyloxy)-1,1,1,3,3,3-hexafluoropropan-2-yl)benzyl)-piperazine-1-carbonyl)-2-fluorophenyl)-3-(pyrimidin-4-yl)urea | 0.088 mmol, 0.0627 g | [Si](C)(C)(C(C)(C)C)OC(C(F)(F)F)(C(F)(F)F)C1=CC=C(CN2CCN(CC2)C(=O)C2=CC(=C(C=C2)NC(=O)NC2=NC=NC=C2)F)C=C1 | C32H37F7N6O3Si
reactant | potassium fluoride | 0.877 mmol, 0.102 g | [F-].[K+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(2-Fluoro-4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)piperazine-1-carbonyl)phenyl)-3-(pyrimidin-4-yl)urea | 8 mg | FC1=C(C=CC(=C1)C(=O)N1CCN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)NC(=O)NC1=NC=NC=C1 | C26H23F7N6O3
